US08791090B2
[Step 1] Reactions and treatments were carried out in the same manner as in Example 118, using 122.8 mg of (2S,4R)-1-acetyl-2-methyl-4-[(4-morpholinophenyl)amino]-1,2,3,4-tetrahydroquinoline-6-carboxylic acid instead of (2S,4R)-1-acetyl-2-methyl-4-(4-morpholinophenoxy)-1,2,3,4-tetrahydroquinoline-6-carboxylic acid, and using 155.3 μL of benzyl alcohol instead of monomethylamine. Thus, 133.4 mg (89.0%) of (2S,4R)-1-acetyl-2-methyl-4-[(4-morpholinophenyl)amino]-1,2,3,4-tetrahydroquinoline-6-carboxylic acid benzyl ester was obtained as a pale yellow amorphous substance.

reactant | (2S,4R)-1-acetyl-2-methyl-4-[(4-morpholinophenyl)amino]-1,2,3,4-tetrahydroquinoline-6-carboxylic acid | 122.8 mg | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C(=O)O)NC1=CC=C(C=C1)N1CCOCC1)C | C23H27N3O4
reactant | benzyl alcohol | 155.3 μL | C(C1=CC=CC=C1)O | C7H8O
product | (2S,4R)-1-acetyl-2-methyl-4-[(4-morpholinophenyl)amino]-1,2,3,4-tetrahydroquinoline-6-carboxylic acid benzyl ester | 133.4 mg, 89.0% | C(C1=CC=CC=C1)OC(=O)C=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C)=O)C)NC1=CC=C(C=C1)N1CCOCC1 | C30H33N3O4
